### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/Ordinal): sum_eq_iSup

### PR DESCRIPTION
**Pull request by YnirPaz**
Prove `sum_eq_iSup`, an infinite sum is equal to the supremum of summands.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Ordinal.lean [hunk 1]
```diff
@@ -827,6 +827,17 @@ protected theorem ciSup_mul_ciSup (g : ι' → Cardinal.{v}) :
     (⨆ i, f i) * (⨆ j, g j) = ⨆ (i) (j), f i * g j := by
   simp_rw [Cardinal.ciSup_mul f, Cardinal.mul_ciSup g]
 
+theorem sum_eq_iSup {ι} {f : ι → Cardinal} (hι : ℵ₀ ≤ #ι) (h : #ι ≤ iSup f) : sum f = iSup f :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Ordinal.lean:830]: Isn't the `ι` variable declared at the start of the file?

File: Mathlib/SetTheory/Cardinal/Ordinal.lean [hunk 2]
```diff
@@ -827,6 +827,17 @@ protected theorem ciSup_mul_ciSup (g : ι' → Cardinal.{v}) :
...
+  le_antisymm (max_eq_right h ▸ mul_eq_max hι (hι.trans h) ▸ sum_le_iSup f) (iSup_le_sum f)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Ordinal.lean:831]: As much as I enjoy golfing, I think two substs might be a bit too much. It's a bit hard to understand how this proof is operating. Can you rewrite this as a short tactic-mode proof instead?

File: Mathlib/SetTheory/Cardinal/Ordinal.lean [hunk 3]
```diff
@@ -827,6 +827,17 @@ protected theorem ciSup_mul_ciSup (g : ι' → Cardinal.{v}) :
...
+
+theorem sum_eq_iSup_lift {ι : Type u} {f : ι → Cardinal.{max u v}} (hι : ℵ₀ ≤ #ι)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Ordinal.lean:833]: Is it more direct to prove this first and use `lift_id` for the other result?

File: Mathlib/SetTheory/Cardinal/Ordinal.lean [hunk 4]
```diff
@@ -827,6 +827,16 @@ protected theorem ciSup_mul_ciSup (g : ι' → Cardinal.{v}) :
     (⨆ i, f i) * (⨆ j, g j) = ⨆ (i) (j), f i * g j := by
   simp_rw [Cardinal.ciSup_mul f, Cardinal.mul_ciSup g]
 
+theorem sum_eq_iSup_lift {f : ι → Cardinal.{max u v}} (hι : ℵ₀ ≤ #ι)
+    (h : lift.{v} #ι ≤ iSup f) : sum f = iSup f := by
+  apply le_antisymm
```
Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Ordinal.lean:832]: Small golf, can you use `apply (iSup_le_sum f).antisymm'` instead?

**Review by vihdzp — APPROVED** [review]

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 5]
```diff
@@ -415,6 +415,15 @@ protected theorem ciSup_mul_ciSup (g : ι' → Cardinal.{v}) :
     (⨆ i, f i) * (⨆ j, g j) = ⨆ (i) (j), f i * g j := by
   simp_rw [Cardinal.ciSup_mul f, Cardinal.mul_ciSup g]
 
+theorem sum_eq_iSup_lift {f : ι → Cardinal.{max u v}} (hι : ℵ₀ ≤ #ι)
+    (h : lift.{v} #ι ≤ iSup f) : sum f = iSup f := by
+  apply (iSup_le_sum f).antisymm'
+  convert sum_le_iSup_lift f
+  rw [mul_eq_max (aleph0_le_lift.mpr hι) ((aleph0_le_lift.mpr hι).trans h), max_eq_right h]
+
+theorem sum_eq_iSup {f : ι → Cardinal} (hι : ℵ₀ ≤ #ι) (h : #ι ≤ iSup f) : sum f = iSup f :=
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:424]: Can you make the universe exxplicit on this cardinal?

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 6]
```diff
@@ -415,6 +415,15 @@ protected theorem ciSup_mul_ciSup (g : ι' → Cardinal.{v}) :
     (⨆ i, f i) * (⨆ j, g j) = ⨆ (i) (j), f i * g j := by
   simp_rw [Cardinal.ciSup_mul f, Cardinal.mul_ciSup g]
 
+theorem sum_eq_iSup_lift {f : ι → Cardinal.{max u v}} (hι : ℵ₀ ≤ #ι)
```
Comment (eric-wieser) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:418]: Based on the surrounding lemmas, I think this should use `ciSup` in the name?

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:418]: As I understand it (or rather, as @YaelDillies told me), the convention is to use `iSup` rather than `ciSup` for concrete types.

Comment (eric-wieser) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:418]: Or is the rule about where a `BddAbove` assumption is needed?

Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:418]: The rule as I have understood it is that the `c` is used as disambiguation, and dropped when there is no ambiguity. Here there can't be an honest to god iSup, so ciSup means iSup

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 7]
```diff
@@ -415,6 +415,15 @@ protected theorem ciSup_mul_ciSup (g : ι' → Cardinal.{v}) :
...
+    (h : lift.{v} #ι ≤ iSup f) : sum f = iSup f := by
+  apply (iSup_le_sum f).antisymm'
+  convert sum_le_iSup_lift f
+  rw [mul_eq_max (aleph0_le_lift.mpr hι) ((aleph0_le_lift.mpr hι).trans h), max_eq_right h]
+
+theorem sum_eq_iSup {f : ι → Cardinal} (hι : ℵ₀ ≤ #ι) (h : #ι ≤ iSup f) : sum f = iSup f :=
+  sum_eq_iSup_lift hι ((lift_id #ι).symm ▸ h)
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:425]:
```suggestion
  sum_eq_iSup_lift hι (lift_id #ι ▸ h)
```
`▸` automatically uses hypothesese the right way around

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean]: Ah darn it! I thought this was one of my PRs again. Sorry for that.

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:418]: I tend to agree it's a pretty weird rule

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean (hunk 7 above)
Comment (YnirPaz) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean]: > `▸` automatically uses hypothesese the right way around

It doesn't seem to in this case. It works when `(lift_id #ι) ▸ h` is a seperate `have` but not as part of the entire expression.

Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Arithmetic.lean:425]: Hmm maybe a universe unification issue

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by robertylewis** [comment]
bors merge
